US05104889
Production of 3,5-di-tert-butyl-4-hydroxyphenyl thioacetamide
3,5-Di-tert-butyl-4-hydroxyphenylacetonitrile (20.0 g) and 11.4 ml of triethylamine were dissolved in 40 ml of pyridine, and hydrogen sulfide was blown into the solution at room temperature over 13 hours. The reaction mixture was concentrated, and the crude product thus obtained was purified by silica gel column chromatography (diethyl ether-hexane =3:7) to give 4.9 g of the desired compound as a colorless solid.

reactant | 3,5-Di-tert-butyl-4-hydroxyphenylacetonitrile | 20.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC#N | C16H23NO
reactant | triethylamine | 11.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-di-tert-butyl-4-hydroxyphenyl thioacetamide | 4.9 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=S)N | C16H25NOS
